US05523346
Tetrafluoroethylene/Hexafluoropropylene Added Before Reaction Starts
In a 2-liter reactor were added 1000 gram of deionized water, 70 gram of fluoroacrylate (Zonyl TA-N from dupont), 130 gram of ammonium perfluorooctanoate (Fluororad FC-143, 3M). The mixture is a transparent microemulsion at 50° C. and maintained at a stirring speed of about 1200 rpm. The rector was then vacuumed and purged with tetrafluoroethylene gas three times to ensure oxygen content in the mixture to be below 30 ppm. Then the temperature of the mixture was raised and maintained to be about 90° C. A mixture of tetrafluoroethylene and hexafluoropropylene gas was charged to the reactor and the pressure inside the reactor was about 1500 kPa, in which the mole ratio of tetrafluoroethylene to hexafluoroethylene is about 70:30. Then, 0.4 gram of ammonium persulfate in 40 gram of water was pumped into the reactor to start the reaction. Reaction proceeded for about 234 minutes and was stopped. At the end of the reaction, the pressure of the reactor was about 600 kPa.

reactant | fluoroacrylate | 70 gram | FC(C(=O)[O-])=C
reactant | ammonium perfluorooctanoate | 3M, 130 gram | FC(C(=O)[O-])(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F.[NH4+]
solvent | water | 1000 gram | O | H2O
product | Tetrafluoroethylene Hexafluoropropylene | FC(=C(F)F)F.FC(C(=C(F)F)F)(F)F | InChI=1S/C3F6.C2F4/c4-1(2(5)6)3(7,8)9;3-1(4)2(5)6
